US07109360B1
11β-Fluoro-7α-methylestr-4-ene-3,17-dione
A suspension of 15.2 g (79.8 mmol) of copper iodide in 70 ml of dry tetrahydrofuran is cooled to 0° C., mixed with 28.7 g (330 mmol) of lithium bromide and 27.8 ml of DMPU, stirred first for 30 minutes at this temperature and then cooled to −30° C. While being stirred, 52 ml of methylmagnesium bromide in diethyl ether (3 molar solution) is then added in drops, stirred for another 30 minutes, and the gray-colored suspension is mixed with a solution that consists of 10.0 g (34.7 mmol) of 11β-fluoroestra-4,6-diene-3,17-dione, 24.3 ml of DMPU and 23 ml of trimethylsilyl chloride in 60 ml of dichloromethane. After the addition is completed, it is allowed to stir for another 1.5 hours between −30→−10° C., the cold bath is removed, and 35 ml of ethyl acetate is carefully added at room temperature while being stirred vigorously. For working-up, the reaction solution is diluted with ethyl acetate, washed with saturated aqueous ammonium chloride solution that is free of copper, and the organic phase is dried on sodium sulfate. The crude product is chromatographed on silica gel (hexane-ethyl acetate, gradient of up to 1:1), yield 3.1 g (30%).

reactant | lithium bromide | 330 mmol, 28.7 g | [Br-].[Li+]
reactant | methylmagnesium bromide | 52 ml | C[Mg]Br
reactant | 11β-fluoroestra-4,6-diene-3,17-dione | 34.7 mmol, 10.0 g | F[C@@H]1[C@@H]2[C@H]3CCC(C=C3C=C[C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)=O | C18H21FO2
reactant | trimethylsilyl chloride | 23 ml | C[Si](C)(C)Cl | C3H9ClSi
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 3 molar | C(C)OCC | C4H10O
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
catalyst | copper iodide | 79.8 mmol, 15.2 g | [Cu](I)I
solvent | DMPU | 24.3 ml | CN1CCCN(C1=O)C | C6H12N2O
solvent | DMPU | 27.8 ml | CN1CCCN(C1=O)C | C6H12N2O
product | 11β-Fluoro-7α-methylestr-4-ene-3,17-dione | F[C@@H]1[C@@H]2[C@H]3CCC(C=C3C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)C)=O | C19H25FO2
